US05663053
4,5-Bis(2-chlorophenyl)-2-phenylimidazole (1.7 g) (J. Org. Chem., 1971, 36, 2262) was reacted with ethyl 8-bromooctanoate in a method similar to Example 9. Column chromatography on silica gel eluted with a dichloro-methane:ethanol gradient gave 4,5-bis(2-chloro-phenyl)-1-(7-ethoxycarbonylheptyl)-2-phenylimidazole (1.94 g, 77.6%) as an oil.

reactant | 4,5-Bis(2-chlorophenyl)-2-phenylimidazole | 1.7 g | ClC1=C(C=CC=C1)C=1N=C(NC1C1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C21H14Cl2N2
reactant | ethyl 8-bromooctanoate | BrCCCCCCCC(=O)OCC | C10H19BrO2
product | 4,5-bis(2-chloro-phenyl)-1-(7-ethoxycarbonylheptyl)-2-phenylimidazole | 1.94 g, 77.6% | ClC1=C(C=CC=C1)C=1N=C(N(C1C1=C(C=CC=C1)Cl)CCCCCCCC(=O)OCC)C1=CC=CC=C1 | C31H32Cl2N2O2
